US07169791B2
N-(2-Furanylmethyl)-4-methyl-3-[[4(3-pyridinyl)-2-pyrimidinyl]amino]benzamide
A solution containing ˜50% of propylphosphonic anhydride in N,N-dimethylformamide (Fluka, Buchs, Switzerland; 674 μL, ˜1 mmol) is added within 20 minutes to a stirred mixture of 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid (214.4 mg, 0.7 mmol), furfurylamine (Aldrich, Buchs, Switzerland; 61.8 μL, 0.7 mmol) and triethylamine (776 μL, 5.6 mmol) in 2 mL N,N-dimethylformamide. After stirring for 24 hours at room temperature, the mixture is treated with a half-saturated aqueous solution of sodium hydrogen carbonate and extracted three times with ethyl acetate. The solvent is evaporated off under reduced pressure and the residue dried in vacuo. The crude product is crystallised from dichloromethane to give the title compound as a crystalline solid.

reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid | 0.7 mmol, 214.4 mg | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C17H14N4O2
reactant | furfurylamine | 0.7 mmol, 61.8 μL | C(C1=CC=CO1)N | C5H7NO
reactant | triethylamine | 5.6 mmol, 776 μL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | ˜1 mmol, 674 μL | CN(C=O)C | C3H7NO
product | N-(2-Furanylmethyl)-4-methyl-3-[[4(3-pyridinyl)-2-pyrimidinyl]amino]benzamide | O1C(=CC=C1)CNC(C1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C22H19N5O2
